US04061761
c. 3-Ethyl-2-ethylimino-4-(4-chloro-3-methylsulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride
5.6 g of 2,4'-dichloro-3'-methylsulfamoylacetophenone and 2.7 g of 1,3-diethylthiourea were reacted as prescribed in Example 12. After the addition of 100 ml of diisopropyl ether and a dwelling period of 1 hour at 0° C, the solvent was decanted and the oily end product was crystallized under boiling diethyl ether. Colorless solid body, melting point: 168° C (decomposition).

reactant | 2,4'-dichloro-3'-methylsulfamoylacetophenone | 5.6 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(NC)(=O)=O | C9H9Cl2NO3S
reactant | 1,3-diethylthiourea | 2.7 g | C(C)NC(=S)NCC | C5H12N2S
solvent | diisopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
product | 3-Ethyl-2-ethylimino-4-(4-chloro-3-methylsulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(NC)(=O)=O)=NCC | InChI=1S/C14H20ClN3O3S2.ClH/c1-4-17-13-18(5-2)14(19,9-22-13)10-6-7-11(15)12(8-10)23(20,21)16-3;/h6-8,16,19H,4-5,9H2,1-3H3;1H
